### PR TITLE
Introduce Complementary Cumulative Distribution Function

### PR DESCRIPTION
**Pull request by Yosuke-Ito-345**
##### Motivation for this change

Define the complementary cumulative distribution function (ccdf) and prove some basic lemmas.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by Yosuke-Ito-345** [comment]
@affeldt-aist @t6s 
Could you review this pull request?
The complementary cumulative distribution function is just a counterpart to the cumulative distribution function, but it is indispensable to survival analysis, etc.

**Comment by Yosuke-Ito-345** [comment]
I'm happy to hear that!
Thank you very much.

File: classical/set_interval.v [hunk 1]
```diff
@@ -530,6 +530,30 @@ Lemma set_itv_splitD i :
   [set` i] = [set` Interval i.1 +oo%O] `\` [set` Interval i.2 +oo%O].
 Proof. by rewrite set_itv_splitI/= setDE setCitvr. Qed.
 
+Lemma NycUoy_setT x : `]-oo, x] `|` `]x, +oo[ = setT.
```
Comment (t6s) [inline classical/set_interval.v]: These lemmas can be unified a bit:

```suggestion
Lemma NyUy_setT b x :
  ([set` Interval -oo%O (BSide b x)]) `|`
  ([set` Interval (BSide b x) +oo%O]) = [set: T].
Proof.
rewrite -subTset => z _ /=; rewrite !in_itv/= andbT; apply/orP.
by case: b => /=; case: leP.
Qed.

Lemma NyIy_set0 b x :
  ([set` Interval -oo%O (BSide b x)]) `&`
  ([set` Interval (BSide b x) +oo%O]) = set0.
Proof.
rewrite -subset0 => z /andP /=; rewrite !in_itv/= andbT.
by case: b => /=; case: leP.
Qed.

Lemma NycUoy_setT x : `]-oo, x] `|` `]x, +oo[ = [set: T].
Proof. exact: NyUy_setT. Qed.

Lemma NycIoy_set0 x : `]-oo, x] `&` `]x, +oo[ = set0.
Proof. exact: NyIy_set0. Qed.

Lemma NyoUcy_setT x : `]-oo, x[ `|` `[x, +oo[ = [set: T].
Proof. exact: NyUy_setT. Qed.

Lemma NyoIcy_set0 x : `]-oo, x[ `&` `[x, +oo[ = set0.
Proof. exact: NyIy_set0. Qed.
```

Comment (affeldt-aist) [reply classical/set_interval.v]: Can't these lemmas be obtained as consequences of `itv_bndbnd_setU`?

Comment (t6s) [reply classical/set_interval.v]: Indeed
```
Lemma NyUy_setT b x :
  ([set` Interval -oo%O (BSide b x)]) `|`
  ([set` Interval (BSide b x) +oo%O]) = [set: T].
Proof. by rewrite -itv_bndbnd_setU// set_itvE. Qed.

Lemma NyIy_set0 b x :
  ([set` Interval -oo%O (BSide b x)]) `&`
  ([set` Interval (BSide b x) +oo%O]) = set0.
Proof. by rewrite -(set_itvxx (BSide b x)) [RHS]set_itv_splitI setIC. Qed.
```

Comment (Yosuke-Ito-345) [reply classical/set_interval.v]: Oh, I didn't notice that. Thanks.
I'll adopt these proofs and modify my pull request.

File: classical/set_interval.v [hunk 2]
```diff
@@ -530,6 +530,16 @@ Lemma set_itv_splitD i :
   [set` i] = [set` Interval i.1 +oo%O] `\` [set` Interval i.2 +oo%O].
 Proof. by rewrite set_itv_splitI/= setDE setCitvr. Qed.
 
+Lemma NyUy_setT b x :
```
Comment (affeldt-aist) [inline classical/set_interval.v]: Maybe `itv_setU_setT` is more consistent with the naming of other lemmas.

File: classical/set_interval.v [hunk 3]
```diff
@@ -530,6 +530,16 @@ Lemma set_itv_splitD i :
...
+  ([set` Interval -oo%O (BSide b x)]) `|`
+  ([set` Interval (BSide b x) +oo%O]) = [set: T].
+Proof. by rewrite -itv_bndbnd_setU// set_itvE. Qed.
+
+Lemma NyIy_set0 b x :
```
Comment (affeldt-aist) [inline classical/set_interval.v]: Maybe this can be renamed `disjoint_rays` and moved lower in the file in the section `disjoint_itv`.
I am not sure it needs to use the existing `disjoint_itv` and actually I do not remember why this is
here in the first place; this looks like some refactoring is in order but for the time being it is better
to keep you new lemma near existing similar lemmas so that we won't forget it when cleaning the section.

**Comment by t6s** [comment]
That's strange. Are we using anything specific to  realFieldType?

**Comment by Yosuke-Ito-345** [comment]
Maybe so. In the section `disjoint_itv`, the following error occurs.
```
Lemma disjoint_rays  b (x : R) :
  disjoint_itv (Interval -oo%O (BSide b x)) (Interval (BSide b x) +oo%O).
Proof. by rewrite eq_opE -(set_itvxx (BSide b x)) [RHS]set_itv_splitI setIC. Qed.
(* Error: *)
(* pattern [set` Interval (BSide b x) (BSide b x)] does not match LHS of set_itv_splitI *)
```
The lemma `set_itv_splitI` needs `T : orderType d`, but the section `disjoint_itv` has `R : numDomainType`, which is only a preordered type.

**Comment by t6s** [comment]
Okay, the section can be generalized like:
```
Section disjoint_itv.
Context {disp : Order.disp_t} {T : orderType disp}.

Definition disjoint_itv : rel (interval T) :=
  fun a b => [disjoint [set` a] & [set` b]].

Lemma disjoint_itvxx (i : interval T) : neitv i -> ~~ disjoint_itv i i.
Proof. by move=> i0; rewrite /disjoint_itv/= /disj_set /= setIid. Qed.

Lemma disjoint_neitv (i j : interval T) :
  disjoint_itv i j <-> ~~ neitv (itv_meet i j).
Proof.
case: i j => [a b] [c d]; rewrite /disjoint_itv/disj_set /= -set_itvI.
by split => [/negPn//|?]; apply/negPn.
Qed.

Lemma disjoint_rays b (x : T) :
  disjoint_itv (Interval -oo%O (BSide b x)) (Interval (BSide b x) +oo%O).
Proof. by rewrite eq_opE -(set_itvxx (BSide b x)) [RHS]set_itv_splitI setIC. Qed.

End disjoint_itv.

Section disjoint_itv_numDomain.

Context {R : numDomainType}.

Lemma lt_disjoint (i j : interval R) :
  (forall x y, x \in i -> y \in j -> x < y) -> disjoint_itv i j.
Proof.
move=> ij; apply/eqP; rewrite predeqE => x; split => // -[xi xj].
by have := ij _ _ xi xj; rewrite ltxx.
Qed.

End disjoint_itv_numDomain.
```

**Review by t6s — APPROVED** [review]

File: CHANGELOG_UNRELEASED.md [hunk 4]
```diff
@@ -76,6 +81,11 @@
   + record `isCumulative`
   + definition `Cumulative`
 
+- in `set_interval.v`:
+  + lemma `set_itv_splitI` (generalized from `orderType` to `porderType`)
+	+ lemma `disjoint_itvxx` (generalized from `numDomainType` to `porderType`)
```
Comment (affeldt-aist) [inline CHANGELOG_UNRELEASED.md]:
```suggestion
  + lemma `disjoint_itvxx` (generalized from `numDomainType` to `porderType`)
```

File: CHANGELOG_UNRELEASED.md [hunk 5]
```diff
@@ -76,6 +81,11 @@
   + record `isCumulative`
   + definition `Cumulative`
 
+- in `set_interval.v`:
+  + lemma `set_itv_splitI` (generalized from `orderType` to `porderType`)
+  + lemma `disjoint_itvxx` (generalized from `numDomainType` to `porderType`)
+	+ lemma `disjoint_neitv` (generalized from `realFieldType` to `orderType`)
```
Comment (affeldt-aist) [inline CHANGELOG_UNRELEASED.md]:
```suggestion
  + lemma `disjoint_neitv` (generalized from `realFieldType` to `orderType`)
```

File: classical/set_interval.v [hunk 6]
```diff
@@ -530,7 +536,12 @@ Lemma set_itv_splitD i :
   [set` i] = [set` Interval i.1 +oo%O] `\` [set` Interval i.2 +oo%O].
 Proof. by rewrite set_itv_splitI/= setDE setCitvr. Qed.
 
-End set_itv_porderType.
+Lemma itv_setU_setT b x :
+  ([set` Interval -oo%O (BSide b x)]) `|`
```
Comment (affeldt-aist) [inline classical/set_interval.v]:
```suggestion
  [set` Interval -oo%O (BSide b x)] `|`
```

File: classical/set_interval.v [hunk 7]
```diff
@@ -530,7 +536,12 @@ Lemma set_itv_splitD i :
   [set` i] = [set` Interval i.1 +oo%O] `\` [set` Interval i.2 +oo%O].
 Proof. by rewrite set_itv_splitI/= setDE setCitvr. Qed.
 
-End set_itv_porderType.
+Lemma itv_setU_setT b x :
+  [set` Interval -oo%O (BSide b x)] `|`
+  ([set` Interval (BSide b x) +oo%O]) = [set: T].
```
Comment (affeldt-aist) [inline classical/set_interval.v]:
```suggestion
  [set` Interval (BSide b x) +oo%O] = [set: T].
```
